US07199147B2
Phthalic anhydride (827 mg, 8.26 mmol) was added to a solution of 5-aminoindazole (1.0 g, 7.51 mmol) in acetone (60 ml) at room temperature, and the resulting mixture was refluxed for 4 hours. The solid precipitated was collected by filtration and dried under reduced pressure to obtain 4-(1H-indazol-5-ylamino)-4-oxobutanoic acid (1.79 g, 100%).

reactant | Phthalic anhydride | 8.26 mmol, 827 mg | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | 5-aminoindazole | 7.51 mmol, 1.0 g | NC=1C=C2C=NNC2=CC1 | C7H7N3
solvent | acetone | 60 ml | CC(=O)C | C3H6O
product | 4-(1H-indazol-5-ylamino)-4-oxobutanoic acid | 1.79 g, 100% | N1N=CC2=CC(=CC=C12)NC(CCC(=O)O)=O | C11H11N3O3
